US07547699B2
To a solution of 4.00 g (4R,9aR)-6-bromo-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 100 ml toluene was added drop wise at −78° C. 10.86 ml of a 1.5M solution of tert-butyllithium in pentane. The mixture was stirred at this temperature for 30 min. To the resulting solution was added 5.017 g (tert-butyldimethylsilyloxy) acetaldehyde and the mixture was stirred at −78° C. for 30 min. The reaction was quenched by addition of 10% aqueous ammonium chloride. The phases were separated and the organic phase was purified by chromatography on silica gel with heptane:ethyl acetate=4:1 to yield 2.34 g (4R,9aR)-6-[2-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-ethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester as slightly yellow oil (MS: 464.4 (M+H+))

reactant | (4R,9aR)-6-bromo-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 4.00 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)Br | C16H22BrN3O2
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | (tert-butyldimethylsilyloxy) acetaldehyde | 5.017 g | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | pentane | CCCCC | C5H12
product | (4R,9aR)-6-[2-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-ethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 2.34 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)C(CO[Si](C)(C)C(C)(C)C)O | C24H41N3O4Si
